US07935707B2
C) 2-[Cyclopropyl-(4-trifluoromethoxy-benzoyl)-amino]-3-oxo-butyric acid ethyl ester
To a solution of 6.6 ml (1 M in THF, 7 mmol) of lithium hexamethyldisilylazide cooled to −78° C. under Ar was added, drop wise, a solution of 2.0 g (6 mmol) of [cyclopropyl-(4-trifluoromethoxy-benzoyl)-amino]-acetic acid ethyl ester in 10 ml of THF. The mixture was stirred for 1 h before 0.7 g of acetic anhydride was added and the mixture was allowed to reach room temperature. After 2 h the reaction was diluted with EtOAc, washed with saturated ammonium chloride solution, the organic phase dried with sodium sulfate and concentrated. Purification by flash column chromatography [n-heptane/EtOAc 1:9 to 3:7] afforded 0.3 g (13%) of the title compound as a colorless oil. MS: 374.2 (MH+).

reactant | [cyclopropyl-(4-trifluoromethoxy-benzoyl)-amino]-acetic acid ethyl ester | 6 mmol, 2.0 g | C(C)OC(CN(C(C1=CC=C(C=C1)OC(F)(F)F)=O)C1CC1)=O | C15H16F3NO4
reactant | acetic anhydride | 0.7 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[Cyclopropyl-(4-trifluoromethoxy-benzoyl)-amino]-3-oxo-butyric acid ethyl ester | 0.3 g, 13% | C(C)OC(C(C(C)=O)N(C(C1=CC=C(C=C1)OC(F)(F)F)=O)C1CC1)=O | C17H18F3NO5
